* C:\Users\madha\Desktop\Audio-Amplifier\audio_amplifier.asc
Q1 N010 Vin N012 0 BC547B
Q2 N007 Vin_inv N013 0 BC547B
V1 Vcc 0 5
V2 Vee 0 -5
R1 N014 Vee 5k
Rc1 Vcc N007 11.5k
C1 N008 N007 10µ
R2 N009 0 60k
R3 Vcc N009 140k
Rc2 Vcc N004 10k
Re3 N011 0 3.3k
Q3 N004 N009 N011 0 BC547B
XU1 0 N001 Vcc Vee N002 UA741
C3 N002 N001 0.5n
R4 N002 N001 16k
R5 N001 N005 16k
C4 N005 N003 0.5µ
V4 Vin 0 SINE(0 10m 1k) AC 1
C5 N009 N008 10µ
R6 Vcc N010 11.5k
C6 N006 N002 10n
Re1 N012 N014 200
Re2 N013 N014 200
V5 Vin_inv 0 SINE(0 10m 1k 0 0 180)
C7 N014 Vee 10n
C8 NC_01 N004 10n
C9 N011 0 10n
.model NPN NPN
.model PNP PNP
.lib C:\Users\madha\AppData\Local\LTspice\lib\cmp\standard.bjt
.ac dec 10m 10m 100k
.include UA741.301
.backanno
.end
